Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Recurrent vertigo
 
Major Surgical or Invasive Procedure:
TEE ___

 
History of Present Illness:
The pt is a ___ R-handed M w/o HTN and polysubstance abuse who 
presents to 
the ED for vertigo evaluation in the setting of abnormal 
outpatient MRI findings consistent with multiple infarcts. 

He reports his issues started about a month ago when he was in
___ for weekend with excessive drinking. The next 
morning, he woke up feeling dizzy and unsteady, which he 
initially attributed to excessive drinking the night before and 
drank some Pedialyte and Dramamine. The symptoms resolved 
temporarily within 1 hour.  He describes the dizziness
as feeling of room spinning, more than lightheadedness; he 
denies fainting, headaches, dysarthria, motor/sensory deficits, 
or urinary/bowel incontinence.  His vertigo episodes, which 
typically lasted for about 1h, persisted over the past month. 
Notably, he reports tinnitus associated with vertigo. 

He also reports another vertigo episode ~1 wk ago when he 
he was at ___.  He sat in his car trying to feel better, 
but the symptoms worsened. When he arrived home, he felt 
increasingly nauseated and vomited ×1. He then went to his 
bedroom to lay down. Every time
he tried to lift his head off the bed or move around the 
symptoms
would worsen - each episode lasted for ~ 1 hour.  He denies 
falls/head injury, focal weakness or sensory changes.  However, 
he does endorse one episode of blurry peripheral vision (on the 
right side nasally) associated with a recent headache.  

He reports he has a history of headaches about once per month 
but
recently had 2 lifetime migraines.  The second one was shortly
after his episode of dizziness and was associated with 
peripheral
blurry vision.  The headaches are bifrontal, pulsating, with
associated photophobia, and lasting ~3h, worsened by sleep 
deprivation.  He reports experiencing temporary relief with 
Tylenol. 

Of note, he had an upper respiratory tract infection ___ wk ago. 
He endorses short-term memory loss
over the last 3 weeks; however, he reports does have ADD.  He 
also
reports presenting to ED on ___ with severe chest pain (left 
anterior, sharp and squeezing) in the setting of cocaine use 
which lasted ~40 min.  Otherwise he denies, fevers, chills, 
weight loss, night sweats, GI illness, GU issues.

On neurologic review of systems, the patient denies difficulty
with producing or comprehending speech. Denies 
diplopia,dysarthria, or dysphagia. Denies focal muscle weakness, 
numbness, parasthesia. Denies loss of
sensation. Denies bowel or bladder incontinence or retention. 

 
Past Medical History:
Hypertension - not currently on medications
 
Social History:
___
Family History:
Unknown as patient is adopted
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
Vitals: Tmax/Tcurrent 98.4/98.4  HR ___  BP ___  RR 
___ O2sat 97-98% RA 

General: Comfortable, NAD
HEENT: NCAT, no oropharyngeal lesions, neck supple; R-sided 
hearing loss; Weber test - lateralizes to the L side (no signs 
of vertical and rotational nystagmus or vertigo on ___ 
maneuver) 
___: RRR, S1,S2, no M/R/G. 
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, well-perfused with no signs of edema
Neuro: 
Neurologic Examination:
Mental status: Awake, alert, oriented x 3. Able to relate 
history
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. No evidence of
hemineglect. No left-right confusion.  Able to follow both
midline and appendicular commands.

Cranial Nerves: PERRL 4->2 brisk. VF full to confrontation. 
EOMI,
no nystagmus. V1-V3 without deficits to light touch bilaterally.
No facial movement asymmetry. Hearing intact to finger rub
bilaterally.  Palate elevation symmetric. SCM/Trapezius strength
___ bilaterally. Tongue midline. Negative head impulse test. 
Weber test lateralizes to left side, consistent with right 
sensorineural hearing loss. 
- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response flexor bilaterally.
- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.
- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. Negative Romberg.

DISCHARGE PHYSICAL EXAM 
As above, consistent with admission physical exam. 

 
Pertinent Results:
LABORATORY STUDIES: 

GLUCOSE-131* UREA N-9 CREAT-0.7 SODIUM-138 POTASSIUM-4.1 
CHLORIDE-102 TOTAL CO2-21* ANION GAP-19
ALT(SGPT)-62* AST(SGOT)-41* LD(LDH)-236 ALK PHOS-80 TOT BILI-0.7
ALBUMIN-4.3
CALCIUM-9.4 PHOSPHATE-3.1 MAGNESIUM-2.1 CHOLEST-134
%HbA1c-4.9 eAG-94
TRIGLYCER-50 HDL CHOL-50 CHOL/HDL-2.7 LDL(CALC)-74
TSH-2.8
b2microglobulin -1.9
WBC-6.0 RBC-5.07 HGB-15.2 HCT-44.7 MCV-88 MCH-30.0 MCHC-34.0 
RDW-12.3 RDWSD-39.7, PLT COUNT-210
___ PTT-25.7 ___
TRIGLYCER-60 HDL CHOL-51 CHOL/HDL-2.7 LDL(CALC)-74
TSH-4.6*
FREE T4-1.3
LUPUS ANTICOAGULANT-NEG
LACTATE-1.4
Serum tox screen negative 
Urine tox screen negative 
Urinalysis RBC-3* WBC-2 BACTERIA-NONE YEAST-NONE EPI-1

**************
IMAGING STUDIES:

MRI head w/ and w/o contrast ___
-Multiple scattered small foci of slow diffusion in the 
bilateral cerebral 
hemispheres, compatible with mixed age infarcts ranging from 
late acute to 
subacute. -No evidence of intracranial mass or acute hemorrhage. 
 No definitive abnormal postcontrast enhancement. 

TEE ___
No spontaneous echo contrast or thrombus is seen in the body of 
the left atrium/left atrial appendage or the body of the right 
atrium/right atrial appendage. No atrial septal defect or patent 
foramen ovale is seen by 2D, color Doppler or saline contrast 
with maneuvers. Left ventricular wall thickness, cavity size, 
and global systolic function are normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. No 
aortic atheroma seen to 37 cm from the incisors. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. No 
masses or vegetations are seen on the aortic valve. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. No mass or vegetation is seen on the mitral 
valve. There is no pericardial effusion. 
IMPRESSION: No cardiac source of embolus identified. Normal 
biventricular global systolic function. No valvular pathology or 
pathologic flow identrified. 

CTA Head/Neck ___
1. Multiple evolving bilateral infarcts are better appreciated 
on the 
preceding brain MRI.  No hemorrhage or new large vascular 
territorial 
infarction. 
2. Unremarkable head and neck CTA. 

 
Brief Hospital Course:
Mr. ___ is a ___ y/o man w/o HTN and polysubstance abuse who 
presented to the ED for vertigo evaluation in the setting of an 
abnormal MRI consistent with late to subacute strokes.  His MRI 
studies on ___ showed a nonenhancing 7 x 15 mm 
subcortical focus of slow diffusion and FLAIR signal 
hyperintensity in the ventricle.  Multiple additional punctate 
foci of slow diffusion with some demonstrating FLAIR 
hyperintense signal are also noted in the left paramedian 
frontal lobe, subcortical areas of bilateral inferior frontal 
lobes, bilateral frontoparietal corona radiata, and in the 
posterior body of the corpus callosum bilaterally. He underwent 
a TEE evaluation on ___, which shows no signs of a PFO, 
ASD, or other valvular/flow abnormalities.  No cardiac source of 
embolus was identified. 
 
Given the acute onset of his symptoms (tinnitus, vertigo, N/V 
and hearing loss) a month ago over the course of ___s recent URI, the etiology of his vertigo is most likely 
vestibular neuronitis.  He shows no signs of direction changing 
nystagmus in eccentric gaze and skew deviation on exam, which 
suggests that his acute vestibular syndrome is unlikely to be 
due to a stroke (according to the HINTS trial).  BPPV is 
unlikely given the negative findings on ___ maneuver.  

Etiology for the strokes was felt to be cocaine induced 
vasospasm given cocaine use within the last 3 weeks.  Given his 
negative TEE studies and his history of HTN as well as 
recreational drug use (cocaine use), the incidental MRI findings 
(subacute/late infarcts) is most likely due to an ischemic 
stroke secondary to cocaine use and less likely cardioembolic. 
___, et al. "Cocaine use and risk of ischemic 
stroke in young adults." Stroke 47.4 (___): 918-922.] 

Stroke risk factors were otherwise unremarkable, including LDL 
74, TSH 4.6 with normal Free T4, hemoglobin A1c 4.9. 
Hypercoagulable workup was sent and pending at time of 
discharge. TEE was done and was unremarkable, without any 
evidence of PFO or thrombus. 

TRANSITIONAL ISSUES:
-Follow up with outpatient neurologist, Dr. ___, as 
scheduled
-___ ___ to schedule a time to be fitted for your ___ 
of Hearts/Cardiac Event monitor as outpatient
-Complete outpatient laboratory testing for genetic causes of 
hypercoagulability, including Prothrombin gene mutation and 
Factor V leiden. 
- Continue aspirin 81mg daily for stroke secondary prevention 
-Abstain from drugs. Limit alcohol use to low consumption with 
no more than ___ drinks per day. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Scattered bihemispheric acute and early subacute ischemic 
infarctions 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of vertigo, and were found 
to have an ACUTE ISCHEMIC STROKE, a condition where a blood 
vessel providing oxygen and nutrients to the brain is blocked by 
a clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
-Cocaine use 

We are changing your medications as follows:
-Started baby aspirin, 81mg daily 

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___